US04235794
Strontium myristate
100 of myristic acid which has been granulated from an aqueous emulsion as described in Example 1 (AN 246, titer 53° C. particle size 0.2-0.3 mm.) and 60.2 g strontium hydroxide octahydrate (97% active) are suspended in one liter of water at 50° C. temperature and stirred for 30 minutes at 50° C. followed by 60 minutes of agitation at 70° C. The hollow formed granulate is filtered and dried. The content of free fatty acid amounts to 1.7%.

reactant | myristic acid | C(CCCCCCCCCCCCC)(=O)O | C14H28O2
reactant | strontium hydroxide octahydrate | 60.2 g | O.O.O.O.O.O.O.O.[OH-].[Sr+2].[OH-]
solvent | water | one liter | O | H2O
product | Strontium myristate | C(CCCCCCCCCCCCC)(=O)[O-].[Sr+2].C(CCCCCCCCCCCCC)(=O)[O-] | InChI=1S/2C14H28O2.Sr/c2*1-2-3-4-5-6-7-8-9-10-11-12-13-14(15)16;/h2*2-13H2,1H3,(H,15,16);/q;;+2/p-2
